US07491720B2
(6) Synthesis of methyl 4-bromo-6-(thiazol-2-ylamino)pyridine-2-carboxylate
To a mixture of 2.37 g of methyl 6-(3-benzoylthioureido)-4-bromopyridine-2-carboxylate, 20 ml of tetrahydrofuran and 40 ml of methanol was added 673 mg of potassium hydroxide. The reaction mixture was stirred at room temperature for 1.5 hours, and acidified with a hydrochloric acid-methanol solution. The solvents were concentrated in vacuo. The resulting residue was dissolved in 60 ml of 1,4-dioxane and 3.53 ml of a 40% chloroacetaldehyde aqueous solution was added thereto. After the reaction mixture was heated under reflux for 1 hour, 40 ml of a hydrochloric acid-methanol solution and 60 ml of methanol were added thereto at room temperature, and the resulting mixture was stirred overnight. The reaction mixture was concentrated in vacuo and the residue was recrystallized from methanol-diethyl ether to give the title compound.

reactant | methyl 6-(3-benzoylthioureido)-4-bromopyridine-2-carboxylate | 2.37 g | C(C1=CC=CC=C1)(=O)NC(NC1=CC(=CC(=N1)C(=O)OC)Br)=S | C15H12BrN3O3S
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | potassium hydroxide | 673 mg | [OH-].[K+]
reactant | hydrochloric acid methanol | Cl.CO
solvent | methanol | 40 ml | CO | CH4O
product | methyl 4-bromo-6-(thiazol-2-ylamino)pyridine-2-carboxylate | BrC1=CC(=NC(=C1)NC=1SC=CN1)C(=O)OC | C10H8BrN3O2S
